Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cefepime / Lasix
 
Attending: ___.
 
Chief Complaint:
Fever and acute renal failure
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year old male with MM s/p allogeneic stem 
cell transplant from unrelated donor in ___ last seen 
in clinic on ___ with negative bone marrow biopsy and 
negative SPEP/UPEP. He presents from ___ where he was admitted 
with fevers, nausea, vomiting and inability to tolerate 4 days 
prior to presentation. At his evaluation on ___, his ppx 
acyclovir and bactrim were d/c'ed. 4 days PTP he reports being 
bitten by an insect or spider bite on his mid forehead. He then 
developed a fever to 102 along with weakness and back pain. 
In the ED at the OSH this head lesion was openeded and cultured 
but he was told that it did not grow anything.  No culture data 
comes with the patient from the OSH but per the patient he was 
treated with abx vanc anc zosyn but his micro data was negative. 
He also developed acute renal failure with his creatinine 
increasing to 1.8 from 0.8 in ___.  He developed new left 
eyelid swelling, eye heaviness and increased tearing today and 
also devlelped papular lesions on left arm.  He has three dogs 
at home. No recent foreign travel. He lives on a farm in ___ 
___ and spend a great deal of time outdoors. He has not 
noticed any new bullseye lesions. He does report that the lesion 
on his forehead first looked like a bulla/vessicle before it was 
I and D'ed by the emergency room at the OSH. 

.

PAIN SCALE: ___ 
________________________________________________________________
REVIEW OF SYSTEMS:
CONSTITUTIONAL:        [] All Normal
[ +] Fever  [ ] Chills   [ ] Sweats  [ ] Fatigue   [ +] Malaise  
 [ +]Anorexia  [ ]Night sweats
[- ] _____ lbs.    weight  loss/gain     over _____ months

HEENT:          [] All Normal
[ -] Blurred vision   [ ] Blindness  [ ] Photophobia
[- ] Decreased acuity [ ] Dry mouth  [ ] Bleeding gums
[- ] Oral ulcers  [ -] Sore throat    [ ] Epistaxis  [ ] 
Tinnitus
[ ] Decreased hearing    [ ]Tinnitus [ ] Other:

RESPIRATORY:    [] All Normal
[ ] SOB     [ ] DOE    [ ] Can't walk 2 flights     [+ ] Cough- 
phlegm, acid stuff 
[ ] Wheeze  [ ] Purulent sputum    [ ] Hemoptysis   [ ]Pleuritic 
pain 
[ ] Other:

CARDIAC:        [X]  All Normal
[ ] Angina    [ ] Palpitations   [ ] Edema   [ ] PND
[ ] Orthopnea    [ ] Chest Pain [ ] Other:

GI:             [] All Normal
[ ] Blood in stool     [ ] Hematemesis     [ ] Odynophagia
[ ] Dysphagia:   [ ] Solids    [ ] Liquids
[ ] Anorexia    [+] Nausea - on admission but now resolved [+] 
Vomiting on admission but now resolved  [ ] Reflux
[ ] Diarrhea    [ ] Constipation  []  Abd pain  [ ] Other:

GU:             [X] All Normal
[ ] Dysuria      [ ] Frequency    [ ] Hematuria  []Discharge 
[]Menorrhagia  

SKIN:           [] All Normal
[+ ] Rash- forehead, L arm, L eye        [ ] Pruritus

MS:             [X] All Normal
[ ] Joint pain    [ ] Jt swelling   [ ] Back pain  [ ] Bony pain

NEURO:          [X] All Normal
[ ] Headache    [ ] Visual changes   [ ] Sensory change [ 
]Confusion [ ]Numbness of extremities
[ ] Seizures   [ ] Weakness [ ] Dizziness/Lightheaded [ ]Vertigo 
[ ] Headache

ENDOCRINE:     [X] All Normal
[ ] Skin changes  [ ] Hair changes   [ ] Temp subjectivity

HEME/LYMPH:    [X] All Normal
[ ] Easy bruising   [ ] Easy bleeding    [ ] Adenopathy

PSYCH:         [X] All Normal
[ ] Mood change        []Suicidal Ideation  [ ] Other:  

 

[X]all other systems negative except as noted above 

 
Past Medical History:
ONCOLOGIC HISTORY: Mr. ___ is a ___ man who was  
diagnosed with multiple myeloma on ___.  
.  
___ thalidomide and dexamethasone  
___ was admitted to a local hospital with pulmonary emboli  
and Thalomid was discontinued. Anticoagulated with heparin and  
sent home on Coumadin, which he continued to ___.  
___, he started on Velcade, however, discontinued in ___ 
 
due to grade III peripheral neuropathy.  
*Pulsed with 20 mg of dexamethasone x4 days weekly for a short  
time  
___ Revlimid at 10 mg a day x 1 cycle-discontinued due to  
rising urinary paraprotein.  
___ 1000 mg /m2 of Cytoxan  
___ pulse of dexamethasone on (20 mg a day x4 days)  
___ admit for Cytoxan for stem cell mobilization,  
collected 18.05 X 10 ^6 CD34+ cells.  
___ admitted for high dose chemotherapy with autologous 
stem  
cell rescue  
___ began vaccinations per protocol ___  
___ treatment with Revlimid (25 mg), Velcade, and  
dexamethasone.  
___ s/p allogeneic stem cell transplant for multiple 
myeloma from an unrelated donor.  

 
Social History:
___
Family History:
Adopted and does not know information on biological family. 
 
Physical Exam:
On admission:
VS:  T 102.4, 134/73, 109, 20, 95% on RA 
GENERAL:  Obese ill appearing male. He appears feverish. He is 
in no acute distress
Nourishment: OK  
Grooming:OK   
Mentation:OK  
Eyes:NC/AT, PERRL, EOMI without nystagmus, no scleral icterus 
noted. L injected conjunctiva. L eyelid erythematous and 
swollen. Papular rash present around L eye and in L CN V 
distribution. 
Ears/Nose/Mouth/Throat: MMM, no lesions noted in OP  
Neck: supple, no JVD or carotid bruits appreciated  
Respiratory: Lungs CTA bilaterally without R/R/W  
Cardiovascular: RRR, nl. S1S2, no M/R/G noted  
Gastrointestinal: soft, NT/ND, normoactive bowel sounds, no 
masses or organomegaly noted.  
Genitourinary:  
Skin: 
Multiple tattoos
Crusted gray lesion in ___ forehead. Pus could not be 
expressed despite firm palpation. L eyelid erythema as noted 
above. Papular lesions present on L forearm. 
Extremities: No C/C/E bilaterally, 2+ radial, DP ___ pulses b/l.  

Lymphatics/Heme/Immun: No cervical, supraclavicular, axillary or 
inguinal lymphadenopathy noted.  
Neurologic:  
-mental status: Alert, oriented x 3. Able to relate history 
without difficulty.  
-cranial nerves: II-XII intact  
-motor: normal bulk, strength and tone throughout. No abnormal 
movements noted.  
Psychiatric:  appropriate affect

ACCESS: [X]PIV []CVL site ______

FOLEY: []present [X]none 

TRACH: []present [x]none  

PEG:[]present [X]none  [ ]site C/D/I 

COLOSTOMY: :[]present [X]none  [ ]site C/D/I 

At discharge:
vitals: temp: 97.4, HR: 72, BP: 120/60; Sat: 94% RA.
Gen: Obese, well-appearing male in NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. MMM, OP benign.
Neck: Supple, full ROM.  JVP of ** cm.  No cervical 
lymphadenopathy.  No carotid bruits noted.
CV: RRR with normal S1, S2.  No M/R/G.  No S3 or S4.
Chest: Respiration unlabored, no accessory muscle use. CTAB 
without crackles, wheezes or rhonchi.
Abd: Normal bowel sounds. Soft, NT, ND. No organomegaly or 
masses.
Ext: WWP.  Digital cap refill <2 sec.  No C/C/E.  Distal pulses 
intact radial 2+, DP 2+, ___ 2+. 
Skin: Healing rash on right side of upper face.  Black necrotic 
area in mid-forehead; crusted lesions on thighs, inside left 
arm.
Neuro: CN II-XII grossly intact. No pronator drift. No 
cerebellar signs. Normal gait. Normal language.

 
Pertinent Results:
LABS: 
Hematology 
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 07:55    6.5 5.00 14.7 41.9 84 29.4 35.0 13.6 252 
DIFFERENTIAL Neuts Bands Lymphs Monos Eos Baso Atyps Metas 
___ 07:55    67.8   23.6 5.2 2.9 0.5     
BASIC COAGULATION ___, PTT, PLT, INR) Plt Ct 
___ 07:55    252 
 
Chemistry 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
                         11 0.8 140 4.3 ___ 

ENZYMES & BILIRUBIN ALT AST LD(LDH) CK(CPK) AlkPhos Amylase 
TotBili DirBili IndBili 
___ 07:55    25 25 155   96   0.3 0.1 0.2 
CHEMISTRY TotProt Albumin Globuln Calcium Phos Mg UricAcd ___ 
___ 07:55    6.8 4.3 2.5 9.6 3.4 1.7     
PROTEIN AND IMMUNOELECTROPHORESIS PEP IgG IgA IgM IFE 
___ 07:55    NO SPECIFI1 827 237 51 NO MONOCLO2 

NO SPECIFIC ABNORMALITIES SEEN
HX ___ LAMBDA NOTED
INTERPRETED BY ___, MD

NO MONOCLONAL IMMUNOGLOBULIN SEEN
INTERPRETED BY ___, MD

 
 
 
Miscellaneous 
  FREE KAPPA AND LAMBDA, WITH K/L RATIO 
___ 07:55    Test    
 

Urine  
Chemistry 
URINE CHEMISTRY Hours Creat TotProt Prot/Cr 
___ 07:55    RANDOM 165 25 0.2 
OTHER URINE CHEMISTRY U-PEP IFE 
___ 07:55    NEGATIVE F1 TRACE MONO2 
.
  
BONE MARROW 
BONE MARROW SPECIAL STAINS & FLOW CYTOMETRY ___ 
___ 12:55    DONE DONE 
.
___
    \  /
11.0/35\250
.
138|103|11
4.1|26 |1.8\ 128
Of note creatinine = 1.0 on admission on ___
HCT = 39 on admission
.
Urine culture: no growth to date
EKG:

.

LAST ECHO:

.

CXR: Chest PA/L: ___
No evidence of intrathoracic disease. Expansile lytic lesion of 
the right fourth rib appears stable compared ___ ___. No acute bony abnormality. 
.
CT abd w/o contrast:
Both kidneys are normal. No hydronephrosis or hydroureter. 
Multiple lytic bone lesions are again identified compatible with 
the patient's history of multiple myeloma. No osteomyelitis.

.

CT SCAN:

.

BLOOD/URINE CULTURE: []pending []positive:

.

OTHER DIAGNOSTICS:
Bone marrow bx ___
DIAGNOSIS:  
HYPOCELLULAR MARROW FOR AGE WITH MATURING TRILINEAGE 
HEMATOPOIESIS.
.

___ 07:20AM BLOOD WBC-7.7 RBC-4.12* Hgb-11.9* Hct-35.0* 
MCV-85 MCH-28.9 MCHC-33.9 RDW-13.6 Plt ___
___ 02:00AM BLOOD WBC-12.2*# RBC-3.87* Hgb-11.3*# Hct-32.5* 
MCV-84 MCH-29.2 MCHC-34.8 RDW-13.2 Plt ___
___ 07:20AM BLOOD Neuts-75.6* Lymphs-16.9* Monos-5.0 
Eos-2.2 Baso-0.4
___ 07:08AM BLOOD Neuts-74.6* Lymphs-17.0* Monos-4.7 
Eos-3.2 Baso-0.5
___ 07:20AM BLOOD Neuts-75.6* Lymphs-16.9* Monos-5.0 
Eos-2.2 Baso-0.4
___ 06:00AM BLOOD Neuts-76.2* Lymphs-17.3* Monos-5.6 
Eos-0.6 Baso-0.3
___ 07:20AM BLOOD Plt ___
___ 07:20AM BLOOD ___ PTT-25.8 ___
___ 02:00AM BLOOD Plt ___
___ 02:00AM BLOOD ___ PTT-26.3 ___
___ 07:20AM BLOOD ___
___ 06:00AM BLOOD ___
___ 07:20AM BLOOD ___ ___
___ 07:15AM BLOOD ___ ___
___ 07:20AM BLOOD Glucose-101* UreaN-10 Creat-1.4* Na-141 
K-4.4 Cl-103 HCO3-28 AnGap-14
___ 02:00AM BLOOD Glucose-147* UreaN-10 Creat-1.6* Na-135 
K-3.3 Cl-102 HCO3-24 AnGap-12
___ 07:20AM BLOOD ALT-17 AST-18 LD(LDH)-209 AlkPhos-78 
TotBili-0.2
___ 02:00AM BLOOD ALT-45* AST-40 AlkPhos-77 TotBili-0.3
___ 07:20AM BLOOD Calcium-8.9 Phos-4.3 Mg-2.0 UricAcd-4.5
___ 02:00AM BLOOD Calcium-8.4 Phos-2.1* Mg-1.8
___ 06:15AM BLOOD TotProt-5.9*
___ 06:15AM BLOOD PEP-HYPOGAMMAG IgG-709 IgA-205 IgM-79
___ 06:15AM BLOOD Vanco-14.8
___ 05:30PM BLOOD Vanco-18.0
   
DIRECT ANTIGEN TEST FOR VARICELLA-ZOSTER VIRUS (Final ___: 

POSITIVE FOR VARICELLA ZOSTER. 
Viral antigen identified by immunofluorescence. 

Chest XRay ___ Suspicious area of consolidation in the 
right lower lung and linear atelectasis. Multiple lytic lesions 
involving the ribs on the right side are redemonstrated. 

CT head ___ 1. No evidence of acute intracranial 
abnormalities or frontal osteomyelitis.  
MRI would be more sensitive for intracranial infection or 
frontal 
osteomyelitis, if clinically indicated. 
2. Mucosal thickening in the imaged paranasal sinuses without 
evidence of 
fluid to suggest acute sinusitis. The maxillary sinuses are not 
fully imaged. 
3. Fluid within bilateral mastoid air cells without evidence of 
osseous 
erosion to definitively suggest infection. Please correlate 
clinically. 

Renal USS ___ No evidence of hydronephrosis, renal calculi, 
or renal mass. Both kidneys at upper limits for size which may 
reflect patient body habitus.  

 
Brief Hospital Course:
___ year old male with MM s/p allogenic stem cell transplant in 
___ with recent evaluation which was negative for any 
evidence of recurrence who presents with fevers at an OSH and 
has now developed a cough along with a crusted lesion in the 
___ his forehead and two new papulous lesions.  He has 
stopped taking prophylactic acyclovir and bactrim on ___.  
He was transferred from an OSH for further evaluation.
.
Disseminated Herpes Zoster: Patient presented with vesicular 
rash in left V1 distribution, fevers, two new umbilicated 
lesions inside left arm.  Overnight, he also developed 
erythematous, raised lesions inside his thighs, as well as pain 
in a dermatomal distribution across his right flank.  ID and 
dermatology were consulted.  He was initialyl started on 
antibiotics and high dose acyclovir.  DFA was positive was VZV. 
Chest X-ray showed evidence of left lung base consolidation.  
Patient was treated with high dose acyclovir and levofloxacin.  
His fevers and rash improved, and pain resolved.  He completed a 
course of levofloxacin in hospital.  Once all lesions had 
crusted over, he was transitioned to PO valacyclovir.  
Amitryptiline was started as prophylaxis for post-herpetic 
neuralgia.  The patient will continue taking valacyclovir for a 
further 9 days and then transition to prophylactic acyclovir.
.
Right flank pain: Patient reported right flank pain in a 
dermatomal distribution, worsening over the firs two nights of 
admission.  Pain appeared superficial, could be elicited by 
light touch.  U/A, renal ultrasound were negative for any 
evidence of renal pathology.  He was started on gabapentin and 
amitryptiline for neuropathic pain, as well as dilaudid, and the 
pain improved significantly.  At the time of discharge, the 
patient had no flank pain.
.
Eye erythema: Left eye was erythematous on presentation.  
Eyeleid swollen adn erythematous.  Ophthalmology was consulted, 
but did not feel that the eye was directly involved by zoster 
ophthalmicus or other infection.  Erythema more likely related 
to eyelid inflammation.  As the facial rash improved, the red 
eye too resolved.
.
Acute kidney injury: Creatinine was 1.6 on admission, likely due 
to vancomycin toxity due to supratherapeutic dosing at OSH.  ___ 
also exacerbated by volume depletion (FeNA 0.48).  Patient was 
hydrated at 125 ml/hr, and vancomycin was discontinued.  
Creatinine was trending down and had improved to 1.4 on the day 
of discharge.
.
Hypertension:
continued nifedipine 60 mg qd; continued metoprolol.
.
Depression: Continued home dose duloxetine.
 
Medications on Admission:
cymbalta 20 mg bid
Procardia 60 mg po qd
MVT qd
Lopressor 25 mg bid
Folic acid 1 mg po qd
 Omeprazole 20 mg qd
pseudoephedrine
heparin SQ 5000 IU bid
Zosyn 3.375 gm IV q 8 hrs
Vancomycin 2 gm IV q 12
dilaudid 0.8 mg IV 1 3 hours prn 
 
Discharge Medications:
1. multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. nifedipine 60 mg Tablet Extended Release Sig: One (1) Tablet 
Extended Release PO DAILY (Daily).
Disp:*30 Tablet Extended Release(s)* Refills:*2*
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
4. duloxetine 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
5. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).  
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day) as needed for constipation.
Disp:*90 Capsule(s)* Refills:*2*
8. lactulose 10 gram/15 mL Syrup Sig: Thirty (30) ML PO BID (2 
times a day) as needed for constipation.
Disp:*500 ml* Refills:*0*
9. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

10. amitriptyline 25 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for prophylaxis against post-herpetic 
neuralgia.
Disp:*90 Tablet(s)* Refills:*0*
11. valacyclovir 500 mg Tablet Sig: Two (2) Tablet PO Q8H (every 
8 hours).
Disp:*27 Tablet(s)* Refills:*0*
12. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*20 Tablet(s)* Refills:*0*
13. acyclovir 400 mg Tablet Sig: One (1) Tablet PO three times a 
day.
Disp:*30 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Disseminated Herpes Zoster
Secondary: Multiple myeloma; post-allogeneic stem cell 
transplant.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

It was a pleasure taking care of you at the ___ 
___.  You were admitted with a rash, back 
pain and fevers.  Diagnostic tests revealed that you had 
disseminated shingles (herpes zoster).  We treated you with 
acyclovir and pain medications, and your symptoms improved.

We made the following changes to your medications:
Started VALACYCLOVIR: please take one pill every 8 hours for 9 
more days.  After nine days, please continue taking ACYCLOVIR, 
one pill every eight hours.
Strted AMITRYPTILINE: please take one tablet daily for 90 days.  
This will help prevent nerve pain following zoster infection.
Started OXYCODONE: Please take one tablet up to every 6 hours as 
needed for pain.
Started SENNA, SODIUM DOCUSATE and LACTULOSE for bowel movment.
Started NIFEDIPINE.
Stopped PSEUDOEPHEDRINE.
 
Followup Instructions:
___